US06225306B1
(2S, 11aR)-2-Hydroxy-10-[4-[(2-Phenylbenzoyl) Amino]Benzoyl]-1,2,3,10,11,11a-Hexahydro-5H-Pyrrolo[2,1-c][1,4]Benzodiazepine Hydrochloride
The same procedures used in Example 7 were repeated using (2S, 11aR)-2-acetoxy-10-[4-[(2-phenylbenzoyl)amino]benzoyl]-1,2,3,10,11,11a-hexahydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine obtained in Example 46 to give (2S, 11aR)-2-hydroxy-10-[4-[(2-phenylbenzoyl)amino]benzoyl]-1,2,3,10,11,11a-hexahydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine. The resulting (2S, 11aR)-2-hydroxy-10-[4-[(2-phenylbenzoyl)amino]benzoyl]-1,2,3,10,11,11a-hexahydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine was dissolved in ethyl acetate, followed by addition of a 4N hydrochloric acid-ethyl acetate solution thereto, removal of the resulting precipitates through filtration and washing them with a small amount of ethyl acetate to give the title compound. Yield 33.2%.

reactant | (2S, 11aR)-2-hydroxy-10-[4-[(2-phenylbenzoyl)amino]benzoyl]-1,2,3,10,11,11a-hexahydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine | O[C@H]1C[C@@H]2CN(C3=C(CN2C1)C=CC=C3)C(C3=CC=C(C=C3)NC(C3=C(C=CC=C3)C3=CC=CC=C3)=O)=O | C32H29N3O3
reactant | hydrochloric acid ethyl acetate | 4N | Cl.C(C)(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S, 11aR)-2-Hydroxy-10-[4-[(2-Phenylbenzoyl) Amino]Benzoyl]-1,2,3,10,11,11a-Hexahydro-5H-Pyrrolo[2,1-c][1,4]Benzodiazepine Hydrochloride | Yield 33.2% | Cl.O[C@H]1C[C@@H]2CN(C3=C(CN2C1)C=CC=C3)C(C3=CC=C(C=C3)NC(C3=C(C=CC=C3)C3=CC=CC=C3)=O)=O | InChI=1S/C32H29N3O3.ClH/c36-27-18-26-20-35(30-13-7-4-10-24(30)19-34(26)21-27)32(38)23-14-16-25(17-15-23)33-31(37)29-12-6-5-11-28(29)22-8-2-1-3-9-22;/h1-17,26-27,36H,18-21H2,(H,33,37);1H/t26-,27+;/m1./s1
